US08293768B2
Synthesis of 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-((5-methylpyrazin-2-yl)methyl)thiophene-2-carboxamide
Following the procedure as described in Example 31, making variations as required to replace 3-(aminomethyl)pyridine with 2-(aminomethyl)-5-methylpyrazine to react with 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid, the title compound was obtained as a colorless solid in 76% yield: mp 189-191° C.; 1H NMR (300 MHz, CDCl3) δ 8.52 (s, 1H), 8.40 (s, 1H), 7.72 (s, 1H), 7.41-7.34 (m, 2H), 7.07-6.99 (m, 2H), 6.98 (t, J=4.7 Hz, 1H), 6.92 (s, 1H), 4.96 (s, 2H), 4.71 (d, J=4.7 Hz, 2H), 2.56 (s, 3H), 2.53 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6 (d, JC-F=246.9 Hz), 162.4, 152.7, 150.4, 148.4, 143.4, 142.8, 140.1, 134.8, 132.4, 131.2 (d, JC-F=3.2 Hz), 130.3 (d, JC-F=8.3 Hz), 126.1, 120.5, 115.7 (d, JC-F=21.7 Hz), 49.0, 42.3, 21.2, 16.0; MS (ES+) m/z 439.2 (M+1).

reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | 2-(aminomethyl)-5-methylpyrazine | NCC1=NC=C(N=C1)C | C6H9N3
reactant | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)O)C)C=C1 | C15H12FN3O3S
product | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-((5-methylpyrazin-2-yl)methyl)thiophene-2-carboxamide | 76% yield | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)NCC2=NC=C(N=C2)C)C)C=C1 | C21H19FN6O2S
